US04788206
To a stirred solution of n-butyl lithium in hexane (1.6M; 100 mL) at -78° C. under argon, was added dropwise a solution of 3-bromobenzotrifluoride (36 g) in dry ether (75 mL) over 15 minutes. After the addition was complete, the solution was stirred at -78° C. for 45 minutes, then a solution of alpha,alpha,alpha-trifluoro-m-toluonitrile (25.7 g) in dry ether was added over 20 minutes. The deep red mixture was allowed to react at -78° C. for 30 minutes, then immediately after the cooling bath was removed 6N hydrochloric acid (100 mL) was added in a rapid stream. The reaction mixture decolorized and a dense precipitate formed as the reaction temperature rose rapidly to 0°-5° C. Water (200 mL) and ether (200 mL) were added, and the reaction was warmed to 35° C. and was stirred at that temperature until the precipitate dissolved (2 hours). After the reaction was cooled, the layers were separated and the aqueous phase was washed with ether (200 mL). The organic extracts were washed in turn with saturated sodium bicarbonate, then were combined, dried (MgSO4) and evaporated. The solid residue was dissolved in hot hexane (200 mL) and the mixture was left at 0°-5° C. overnight. The resulting colorless crystalline material was filtered, washed with hexane and dried to give 43.9 g of 3,3'-bis(trifluoromethyl)benzophenone mp 98.5°-99.5° C.

reactant | n-butyl lithium | C(CCC)[Li]
reactant | 3-bromobenzotrifluoride | 36 g | BrC=1C=C(C=CC1)C(F)(F)F | C7H4BrF3
reactant | alpha,alpha,alpha-trifluoro-m-toluonitrile | 25.7 g | FC(C1=CC(=CC=C1)C#N)(F)F | C8H4F3N
reactant | Water | 200 mL | O | H2O
solvent | hexane | 1.6M, 100 mL | CCCCCC | C6H14
solvent | ether | 75 mL | CCOCC | C4H10O
solvent | ether | 200 mL | CCOCC | C4H10O
product | 3,3'-bis(trifluoromethyl)benzophenone | 43.9 g | FC(C=1C=C(C(=O)C2=CC(=CC=C2)C(F)(F)F)C=CC1)(F)F | C15H8F6O
